US07799812B2
b) 4-(2-Methoxycarbonyl-ethylsulfamoyl)-benzoic acid
It is obtained by reacting 4-chlorosulfonyl-benzoic acid (1 eq) with H-βAla-OMe×HCl in CH2Cl2 using diisopropylethylamine (2 eq) as base. After 30 minutes at room temperature the reaction mixture is extracted with water and the organic layer is dried over Na2SO4. Removal of the solvent gives the title compound.

reactant | 4-chlorosulfonyl-benzoic acid | 1 eq | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | H-βAla-OMe | NCCC(=O)OC | C4H9NO2
reactant | HCl | Cl | ClH
reactant | diisopropylethylamine | 2 eq | C(C)(C)N(CC)C(C)C | C8H19N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(2-Methoxycarbonyl-ethylsulfamoyl)-benzoic acid | COC(=O)CCNS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C11H13NO6S
